### ISSUE TITLE
Floats aren't hashable

### ISSUE THREAD

**Issue by alok** [leanprover/lean4#3650]
They implement BEq, so making them so seems a small step. My intended use case is writing some basic numerical code and building out support there.

**Comment by digama0** [comment]
They don't implement BEq lawfully, because they use the IEEE 754 definition of float equality. So you wouldn't be able to use them in a hashmap anyway.

Exposing a Hashable instance is not completely trivial because NaN payload bytes aren't allowed to leak without breaking the lean model of the type. It could be done if you clear the NaN payload, but perhaps this would be best exposed as a function to `UInt64` anyway, and then you can implement this in user code.

**Comment by alok** [comment]
This is making me think of something like the rust libraries for floats that avoid nans by construction and using the numeral overloading to make it nice to use.

**Comment by TomasPuverle** [comment]
If you don't mind me asking, what do you mean by

> because NaN payload bytes aren't allowed to leak without breaking the lean model of the type

I am familiar with the IEEE format but I don't understand what you are referring to here.

**Comment by Kha** [comment]
As mentioned this would lead to *incorrect* behavior in hashmaps

**Comment by srghma** [comment]
# Summary (more for me)

[`Float`](https://github.com/leanprover/lean4/blob/3dc1a088b6d2d8eafe25a7cd7ec7b58d731bd7cc/src/Init/Data/Float.lean#L31-L49) cannot be [`LawfulBEq`](https://github.com/leanprover/lean4/blob/3dc1a088b6d2d8eafe25a7cd7ec7b58d731bd7cc/src/Init/Core.lean#L795-L804) and [`LawfulHashable`](https://github.com/leanprover/lean4/blob/3dc1a088b6d2d8eafe25a7cd7ec7b58d731bd7cc/src/Init/Data/LawfulHashable.lean#L13-L21) bc

```lean
Float.beq 0.0 -0.0 = true -- but should be false
Float.beq NaN NaN = false -- but should be true
```

Other problems:
1. there are 9 quadrillion distinct binary [representations](https://github.com/leanprover/lean4/pull/6097/changes#diff-7c087ad74d4173577c2c78b915aaeedfee0432d3934e556a0d806533840abe73R1636) of [NaN](https://en.cppreference.com/cpp/types/numeric_limits/quiet_NaN)
2. Clang/C++/Rust dont comply IEEE. E.g.
  - If you run C code on an old CPU that doesn't handle NaNs or Denormals correctly, the C compiler might just let the hardware do whatever it wants.
  - `-fast-math` flag that makes their `double` non IEEE-compliant. E.g. can remove `x = x + 0.0` even though if `x` is `-0.0` then it should become `0.0`
  - ... other things, google "how to make c++ IEEE 754 compliant"

But lean should be IEEE compliant [1](https://github.com/leanprover/lean4/pull/3147/changes#r1446735973) [2](https://github.com/leanprover/lean4/issues/6797#issuecomment-2619437513)

Other prior talks about formalization [1](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/IEEE.20754.20Float/near/395452257) [2](https://proofassistants.stackexchange.com/questions/5311/what-is-the-most-accepted-library-for-floats-in-lean4)



# Alternatives

1. use `Rat` (pro - infinite range, cons - slow)

https://github.com/leanprover/lean4/blob/8c82f9ed4ae09b165342b24a6461ccc097caae50/src/Init/Data/Rat/Basic.lean#L33

3. create `def HashableFloat = { x: Float // x != NaN ^ x != -0.0 }`
4. this will not work

```lean
structure FixedPoint64 where
 toBits : Int64
 scale : Fin 19

def a := { val := 10, scale := 1 }   -- Represents 1.0
def b := { val := 100, scale := 2 }  -- Represents 1.0
#eval a == b  -- Result: false,
```
4. [implement](https://crates.io/crates/fast-posit) [posits](https://www.reddit.com/r/programming/comments/xraw5t/comment/iqfst2d/?utm_source=share&utm_medium=web3x&utm_name=web3xcss&utm_term=1&utm_content=share_button) (cons - will never be fast as `double`)
5. Use `JsonNumber` https://github.com/leanprover/lean4/blob/8c82f9ed4ae09b165342b24a6461ccc097caae50/src/Lean/Data/Json/Basic.lean#L25


------
<details>

<summary>
Non Finished HashableFloat implementation
</summary>

```lean
import Std.Data.HashMap
import Init.Data.Hashable
/-!
# HashableFloat
A wrapper for `Float` that excludes NaN and -0.0, providing `LawfulBEq` and
`LawfulHashable` instances so it can be used as a key in `Std.HashMap` etc.
## Design
We store the actual `Float` value together with proofs that it is not NaN and
that its bit-pattern is not that of -0.0.  Equality is defined via
`Float.toBits` (bit-exact comparison), which is a proper equivalence relation
on the canonical subset.
### The `Float.toBits_injective` sorry
`Float` and all of its primitive operations (`toBits`, `ofBits`, `beq`, …) are
`@[extern]` opaque definitions in Lean 4.  The kernel cannot reduce them, so
there is **no way** to prove that `Float.toBits` is injective — even though it
obviously is (it IsNaN the identity on the underlying 64-bit IEEE 754 representation).
We therefore leave `Float.toBits_injective` as the single `sorry` in this file.
Every other proof is fully checked.
Everything else — `LawfulBEq`, `LawfulHashable`, the smart constructor, and the
lifted arithmetic / math operations — is built on top of this single assumption.
-/
set_option relaxedAutoImplicit false
set_option autoImplicit false
/-! ### The one unavoidable sorry -/
/-- `Float.toBits` is injective (maps distinct floats to distinct `UInt64` values).
This is true because `toBits` IsNaN the identity on the IEEE 754 bit representation,
but it cannot be proved in Lean 4 because `Float` is an opaque extern type. -/
theorem Float.toBits_injective : Function.Injective Float.toBits := by
 sorry
/-! ### HashableFloat -/
/--
A `Float` that is neither NaN nor -0.0.
These two exclusions guarantee that bit-exact comparison (`Float.toBits`)
is a lawful equivalence relation (reflexive, symmetric, transitive, and
compatible with hashing).
-/
structure HashableFloat where
 /-- The wrapped float value. -/
 val : Float
 /-- The value is not NaN. -/
 noNaN : val.isNaN = false
 /-- The value's bit pattern is not that of negative zero. -/
 noNegZero : val.toBits ≠ (-0.0 : Float).toBits
theorem HashableFloat.ext {a b : HashableFloat} (h : a.val = b.val) : a = b := by
 cases a; cases b; simp only [HashableFloat.mk.injEq] at *; exact h
theorem HashableFloat.ext_iff {a b : HashableFloat} : a = b ↔ a.val = b.val := by
 constructor
 · intro h; rw [h]
 · exact HashableFloat.ext
theorem HashableFloat.ext_bits {a b : HashableFloat}
   (h : a.val.toBits = b.val.toBits) : a = b :=
 HashableFloat.ext (Float.toBits_injective h)
/-! ### BEq / LawfulBEq -/
instance : BEq HashableFloat where
 beq a b := a.val.toBits == b.val.toBits
instance : ReflBEq HashableFloat where
 rfl {a} := by
   show (a.val.toBits == a.val.toBits) = true
   exact beq_self_eq_true a.val.toBits
instance : LawfulBEq HashableFloat where
 eq_of_beq {a b} h := by
   simp only [BEq.beq] at h
   exact HashableFloat.ext_bits (by simpa using h)
/-! ### Hashable / LawfulHashable -/
instance : Hashable HashableFloat where
 hash f := hash f.val.toBits
instance : LawfulHashable HashableFloat where
 hash_eq a b hab := by
   simp only [Hashable.hash]
   have hv : a = b := LawfulBEq.eq_of_beq hab
   rw [hv]
/-! ### Smart constructor -/
/-- Create a `HashableFloat` from a `Float`, returning `none` for NaN
and normalizing -0.0 to +0.0. -/
def Float.toCanonical (f : Float) : Option HashableFloat :=
 if h1 : f.isNaN = true then
   none
 else
   -- Normalize -0.0 → +0.0
   let f' := if f.toBits = (-0.0 : Float).toBits then (0.0 : Float) else f
   if h2 : f'.isNaN = true then
     -- 0.0 is not NaN; this branch is unreachable but keeps the proof obligations simple
     none
   else if h3 : f'.toBits = (-0.0 : Float).toBits then
     none
   else
     some ⟨f', by simp_all, by exact h3⟩
/-! ### Coercion back to Float -/
instance : Coe HashableFloat Float where
 coe f := f.val
/-! ### Lifted operations
Each operation applies the underlying `Float` function and re-canonicalizes.
The result is `Option HashableFloat` because the operation may produce NaN
(e.g. `0 / 0`) or -0.0.
-/
/-- Apply a unary `Float` function and re-canonicalize. -/
def HashableFloat.liftUnary (op : Float → Float) (a : HashableFloat) :
   Option HashableFloat :=
 (op a.val).toCanonical
/-- Apply a binary `Float` function and re-canonicalize. -/
def HashableFloat.liftBinary (op : Float → Float → Float)
   (a b : HashableFloat) : Option HashableFloat :=
 (op a.val b.val).toCanonical
def HashableFloat.add (a b : HashableFloat) : Option HashableFloat :=
 a.liftBinary (· + ·) b
def HashableFloat.sub (a b : HashableFloat) : Option HashableFloat :=
 a.liftBinary (· - ·) b
def HashableFloat.mul (a b : HashableFloat) : Option HashableFloat :=
 a.liftBinary (· * ·) b
def HashableFloat.div (a b : HashableFloat) : Option HashableFloat :=
 a.liftBinary (· / ·) b
def HashableFloat.neg (a : HashableFloat) : Option HashableFloat :=
 a.liftUnary (- ·)
def HashableFloat.abs (a : HashableFloat) : Option HashableFloat :=
 a.liftUnary Float.abs
def HashableFloat.sqrt (a : HashableFloat) : Option HashableFloat :=
 a.liftUnary Float.sqrt
def HashableFloat.sin (a : HashableFloat) : Option HashableFloat :=
 a.liftUnary Float.sin
def HashableFloat.cos (a : HashableFloat) : Option HashableFloat :=
 a.liftUnary Float.cos
def HashableFloat.tan (a : HashableFloat) : Option HashableFloat :=
 a.liftUnary Float.tan
def HashableFloat.exp (a : HashableFloat) : Option HashableFloat :=
 a.liftUnary Float.exp
def HashableFloat.log (a : HashableFloat) : Option HashableFloat :=
 a.liftUnary Float.log
def HashableFloat.ceil (a : HashableFloat) : Option HashableFloat :=
 a.liftUnary Float.ceil
def HashableFloat.floor (a : HashableFloat) : Option HashableFloat :=
 a.liftUnary Float.floor
def HashableFloat.round (a : HashableFloat) : Option HashableFloat :=
 a.liftUnary Float.round
def HashableFloat.pow (a b : HashableFloat) : Option HashableFloat :=
 a.liftBinary Float.pow b
instance : ToString HashableFloat where
 toString f := toString f.val
/-! ### HashMap example -/
-- Correctly using Std.HashMap
def myMap : Std.HashMap HashableFloat String :=
 ∅
def exampleMap :=
 match (1.5 : Float).toCanonical with
 | some f => myMap.insert f "Value"
 | none   => myMap
-- Verification that we can look it up
def testLookup :=
 match (1.5 : Float).toCanonical with
 | some f => exampleMap.get? f
 | none   => none
```
</details>


[My progress on trying to move FloatSpec into lean.](https://github.com/leanprover/lean4/compare/master...srghma:lean4:verfied-float?expand=1). Plan is to implement float like "`Array.mk` is bijective to `Array.toList` for free". Problems rn are: recursive imports and I dont really understand how to make bijections `Float <-> FullFloat` and `Float32 <-> FullFloat`

<details>
<summary>
0. LeanFloat.v that is like `bits_of_b32 (b32_of_bits bits) = bits` proof in flocq but for `extern "C" LEAN_EXPORT double lean_float_of_bits(uint64_t u)` that does `if (isnan(ret)) ret = std::numeric_limits<double>::quiet_NaN();`
</summary>


```coq
From Stdlib Require Import ZArith.
From Flocq Require Import Binary.
From Flocq Require Import Bits.

Definition lean_qnan64_bits : Z := 9221120237041090560%Z.

Definition lean_b64_of_bits (u : Z) : binary64 :=
  let d := b64_of_bits u in
  if is_nan 53 1024 d then
    b64_of_bits lean_qnan64_bits
  else
    d.

Definition lean_bits_of_b64 (d : binary64) : Z :=
  if is_nan 53 1024 d then
    lean_qnan64_bits
  else
    bits_of_b64 d.

Lemma lean_b64_of_bits_of_b64 :
  forall d : binary64,
  lean_b64_of_bits (lean_bits_of_b64 d) = 
    if is_nan 53 1024 d then b64_of_bits lean_qnan64_bits else d.
Proof.
  intro d.
  unfold lean_b64_of_bits, lean_bits_of_b64.
  case_eq (is_nan 53 1024 d); intro Hnan.
  - reflexivity.
  - unfold b64_of_bits, bits_of_b64.
    rewrite binary_float_of_bits_of_binary_float.
    rewrite Hnan.
    reflexivity.
Qed.
```
</details>

<details>
<summary>
1. possible impl
</summary>

```lean
/-
Copyright (c) 2020 Microsoft Corporation. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Leonardo de Moura
-/
prelude
import Init.Data.ToString.Basic

-- ============================================================================
-- 1. FLOCQ PORT STUBS
-- These are the mathematical definitions you must port from Coq's Flocq.
-- They provide the logical foundation for the kernel.
-- ============================================================================
namespace Flocq

/-- Lean equivalent of Flocq's `binary_float` -/
inductive BinaryFloat (prec emax : Int) where
  | zero (sign : Bool)
  | inf (sign : Bool)
  | nan (sign : Bool) (payload : Nat) -- (requires proof that payload fits)
  | finite (sign : Bool) (m : Nat) (e : Int) -- (requires proof of bounds)

-- Type aliases for convenience
abbrev Binary64 := BinaryFloat 53 1024
abbrev Binary32 := BinaryFloat 24 128

-- Canonical NaNs matching std::numeric_limits<double>::quiet_NaN()
def canonicalNaN64 : Binary64 := sorry -- 0x7FF8000000000000
def canonicalNaN32 : Binary32 := sorry -- 0x7FC00000

-- Flocq pure mathematical operations
def b64_add : Binary64 → Binary64 → Binary64 := sorry
def b64_sub : Binary64 → Binary64 → Binary64 := sorry
def b64_mul : Binary64 → Binary64 → Binary64 := sorry
def b64_div : Binary64 → Binary64 → Binary64 := sorry
def b64_neg : Binary64 → Binary64 := sorry

def b64_lt : Binary64 → Binary64 → Prop := sorry
def b64_le : Binary64 → Binary64 → Prop := sorry
def b64_beq : Binary64 → Binary64 → Bool := sorry

def b64_is_nan : Binary64 → Bool := sorry
def b64_is_inf : Binary64 → Bool := sorry
def b64_is_finite : Binary64 → Bool := sorry

def b64_of_bits (bits : UInt64) : Binary64 := sorry
def bits_of_b64 (f : Binary64) : UInt64 := sorry

-- NaN-normalized converters mirroring the C++ implementation
def lean_b64_of_bits (bits : UInt64) : Binary64 :=
  let d := b64_of_bits bits
  if b64_is_nan d then canonicalNaN64 else d

def lean_bits_of_b64 (f : Binary64) : UInt64 :=
  if b64_is_nan f then 9221120237041090560 -- 0x7FF8000000000000
  else bits_of_b64 f

end Flocq

-- ============================================================================
-- 2. LEAN CORE FLOAT DEFINITION
-- ============================================================================

public section

structure FloatSpec where
  float : Type
  val   : float
  lt    : float → float → Prop
  le    : float → float → Prop
  decLt : DecidableRel lt
  decLe : DecidableRel le

-- FloatSpec is now backed by our formal Flocq Binary64 type
def floatSpec : FloatSpec := {
  float := Flocq.Binary64,
  val   := Flocq.BinaryFloat.zero false,
  lt    := Flocq.b64_lt,
  le    := Flocq.b64_le,
  decLt := fun a b => sorry, -- Infer from Flocq proofs
  decLe := fun a b => sorry  -- Infer from Flocq proofs
}

/--
64-bit floating-point numbers.
...
-/
structure Float where
  val : floatSpec.float

instance : Nonempty Float := ⟨{ val := floatSpec.val }⟩

-- ============================================================================
-- 3. NON-OPAQUE DEFINITIONS
-- Notice `opaque` is replaced by `def`. At runtime, Lean ignores the `def` 
-- body and calls the C++ function defined in the `@extern` attribute!
-- ============================================================================

@[extern "lean_float_add"] def Float.add (a b : Float) : Float :=
  ⟨Flocq.b64_add a.val b.val⟩

@[extern "lean_float_sub"] def Float.sub (a b : Float) : Float :=
  ⟨Flocq.b64_sub a.val b.val⟩

@[extern "lean_float_mul"] def Float.mul (a b : Float) : Float :=
  ⟨Flocq.b64_mul a.val b.val⟩

@[extern "lean_float_div"] def Float.div (a b : Float) : Float :=
  ⟨Flocq.b64_div a.val b.val⟩

@[extern "lean_float_negate"] def Float.neg (a : Float) : Float :=
  ⟨Flocq.b64_neg a.val⟩

set_option bootstrap.genMatcherCode false

def Float.lt : Float → Float → Prop := fun ⟨a⟩ ⟨b⟩ => floatSpec.lt a b
def Float.le : Float → Float → Prop := fun ⟨a⟩ ⟨b⟩ => floatSpec.le a b

@[extern "lean_float_of_bits"] def Float.ofBits (u : UInt64) : Float :=
  ⟨Flocq.lean_b64_of_bits u⟩

@[extern "lean_float_to_bits"] def Float.toBits (a : Float) : UInt64 :=
  Flocq.lean_bits_of_b64 a.val

instance : Add Float := ⟨Float.add⟩
instance : Sub Float := ⟨Float.sub⟩
instance : Mul Float := ⟨Float.mul⟩
instance : Div Float := ⟨Float.div⟩
instance : Neg Float := ⟨Float.neg⟩
instance : LT Float  := ⟨Float.lt⟩
instance : LE Float  := ⟨Float.le⟩

@[extern "lean_float_beq"] def Float.beq (a b : Float) : Bool :=
  Flocq.b64_beq a.val b.val

instance : BEq Float := ⟨Float.beq⟩

@[extern "lean_float_decLt"] def Float.decLt (a b : Float) : Decidable (a < b) :=
  floatSpec.decLt a.val b.val

@[extern "lean_float_decLe"] def Float.decLe (a b : Float) : Decidable (a ≤ b) :=
  floatSpec.decLe a.val b.val

attribute [instance] Float.decLt Float.decLe

@[extern "lean_float_isnan"] def Float.isNaN (a : Float) : Bool :=
  Flocq.b64_is_nan a.val

@[extern "lean_float_isfinite"] def Float.isFinite (a : Float) : Bool :=
  Flocq.b64_is_finite a.val

@[extern "lean_float_isinf"] def Float.isInf (a : Float) : Bool :=
  Flocq.b64_is_inf a.val

-- ... The rest of the functions (like sin, cos, uint_to_float, etc.) 
-- follow the exact same pattern.
```

```lean
/--
64-bit floating-point numbers.
-/
structure Float where
  /--
  Extracts the mathematical IEEE-754 representation of the Float.
  This is the logical field used for proofs.
  -/
  toBinary64 : Flocq.Binary64
/--
Converts a Flocq representation into a runtime Float.
At runtime, this is overridden to just cast the bits to a double.
-/
@[extern "lean_float_of_bits"] 
def Float.ofBinary64 (b : Flocq.Binary64) : Float :=
  -- We wrap the pure Lean uint64 converter.
  -- At runtime, this executes `lean_float_of_bits(b64_to_uint64(b))`
  -- In proofs, you can prove this constructs a Float matching `b`.
  ⟨b⟩
/--
Computes the Flocq representation from a runtime Float.
At runtime, this extracts the bits and parses them in pure Lean.
-/
@[extern "lean_float_to_bits"]
def Float.computeBinary64 (f : Float) : Flocq.Binary64 :=
  -- In proofs, this unfolds to `f.toBinary64`.
  -- At runtime, `lean_float_to_bits` grabs the UInt64, and then we parse it.
  f.toBinary64
```
</details>

## Overview of Float formalizations

1. https://github.com/Beneficial-AI-Foundation/FloatSpec port of https://gitlab.inria.fr/flocq/flocq
2. [https://github.com/josephmckinsey/Flean](https://github.com/josephmckinsey/Flean/blob/b5e0bde66ee5b08edeb32b53d8aef80031df13ae/Flean/FloatRep.lean#L10)
3. [https://github.com/josephmckinsey/flean2](https://github.com/josephmckinsey/flean2/blob/2df860e22688fbca1af36303b6bdd6ebd06d4cce/Flean2/SignedNormalFloat.lean#L4) (my [NormalNumber finder](https://gist.github.com/srghma/a538cb9d24da2f1157e68988728b0631))
4. [https://github.com/lexicone42/shortest-decimal](https://github.com/lexicone42/shortest-decimal/blob/4d5ea2d583f5fae86413317b4b01ebc4c4c91e4b/ShortestDecimal/IEEE754/Float64.lean#L22)
